US04992459
A solution of 1.75 g (0.007 mole) of 1-[3-(4methoxyphenyl)propyl]-2-mercaptoimidazole in 60 ml of CH2Cl2 was deprotected by treatment with a solution of 7.0 g (0.028 mole) of BBr3 in 10 ml of CH2Cl2. After 1 5 hr, the reaction mixture was cooled to 0° , and methanol was cautiously added. After a vigorous reaction subsided, the solvents were evaporated. The residue was recrystallized from ethanol to give 1-[3-(4-hydroxyphenyl)-propyl]-2-mercaptoimidazole, 1.02 g (67%), mp 185° .

reactant | 1-[3-(4methoxyphenyl)propyl]-2-mercaptoimidazole | 0.007 mole, 1.75 g | COC1=CC=C(C=C1)CCCN1C(=NC=C1)S | C13H16N2OS
reactant | BBr3 | 0.028 mole, 7.0 g | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-[3-(4-hydroxyphenyl)-propyl]-2-mercaptoimidazole | OC1=CC=C(C=C1)CCCN1C(=NC=C1)S | C12H14N2OS
